US04029787
3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-isobutylamide
40 Grams of 3-dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoylchloride-hydrochloride (0.1 mole) were introduced portionwise, while stirring, into a solution of 30 g of isobutylamine in 0.4 l of tetrahydrofurane. The mixture, whose temperature rose to about 50° C., was subsequently heated for another 10 minutes under reflux and was then concentrated to half its volume.

reactant | 3-dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoylchloride-hydrochloride | 0.1 mole | Cl.CN(S(=O)(=O)C=1C=C(C(=O)Cl)C=CC1N1CCN(CC1)C)C
reactant | isobutylamine | 30 g | C(C(C)C)N | C4H11N
solvent | tetrahydrofurane | 0.4 l | O1CCCC1 | C4H8O
product | 3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-isobutylamide | C(C(C)C)NC(C1=CC(=C(C=C1)N1CCN(CC1)C)S(N(C)C)(=O)=O)=O | C18H30N4O3S
